US08278319B2
Step-1: 1-tert-Butyl 4-methyl piperidine-1,4-dicarboxylate
To a stirred solution of methyl isonipecotate (127.2 mmol, 1 eq) in dichloromethane (200 ml) were added di-tert-butyldicarbonate (190.8 mmol, 1.5 eq) and triethylamine (254.4 mmol, 2.0 eq). The reaction mixture was stirred for 12 h at 25° C. It was then diluted with dichloromethane (100 ml) and washed with water (50 ml) and brine (50 ml). The organic layer was separated, dried over Na2SO4, concentrated and employed in the next step without further purification. Yield: 98%

reactant | methyl isonipecotate | 127.2 mmol, 1 eq | N1CCC(C(=O)OC)CC1 | C7H13NO2
reactant | di-tert-butyldicarbonate | 190.8 mmol, 1.5 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 254.4 mmol, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-tert-Butyl 4-methyl piperidine-1,4-dicarboxylate | Yield: 98% | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
